US06369110B1
A mixture of 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (10.0 g, 48.73 mmol), tin(II) chloride dihydrate (49.48 g, 219.3 mmol) and ethanol (200 ml) was stirred at 70° C. for 2 hours. The reaction mixture was poured into ice water, adjusted to pH 10 with sodium hydroxide, and then extracted with toluene. The extract solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/2) to obtain 8.08 g of 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one.

reactant | 3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 48.73 mmol, 10.0 g | [N+](=O)([O-])C1=CC2=C(CCCCC2=O)C=C1 | C11H11NO3
reactant | tin(II) chloride dihydrate | 219.3 mmol, 49.48 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 8.08 g | NC1=CC2=C(CCCCC2=O)C=C1 | C11H13NO
